US09023840B2
5-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylpyridine-2-carboxamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 3, Step 1-3 starting from 5-bromopyridine-2-carboxylic acid, 2-propanamine and {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride. LCMS (M+H)+: m/z=442.2. 1H NMR (400 MHz, DMSO-d6): δ 12.82 (s, 1H), 9.12 (s, 1H), 8.88 (s, 1H), 8.59 (s, 1H), 8.12 (d, J=8.0 Hz, 1H), 7.94 (d, J=2.5 Hz, 1H), 7.86 (d, J=8.0 Hz, 1H), 7.83 (m, 1H), 7.28 (m, 1H), 7.10 (dd, J=8.0, 3.0 Hz, 1H), 4.66 (d, J=8.0 Hz, 2H), 4.41 (d, J=8.0 Hz, 2H), 3.78 (s, 2H), 4.05 (m, 1H), 1.16 (d, J=6.5 Hz, 6H).

reactant | 5-bromopyridine-2-carboxylic acid | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 2-propanamine | CC(C)N | C3H9N
reactant | {3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-3-yl}acetonitrile dihydrochloride | Cl.Cl.C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)C2(CNC2)CC#N)(C)C
product | 5-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-isopropylpyridine-2-carboxamide | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)NC(C)C)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C23H23N9O
